US07745438B2
(2R,5R)-2-Cyclohexylmethoxy-5-[(1S,2S)-3-(3,5-difluorophenyl)-2-((E)-3-dipropylcarbamoyl-2-methylacryloylamino)-1-hydroxypropyl]-morpholine-4-carboxylic acid hydrochloride
Dissolve (2R,5R)-2-cyclohexylmethoxy-5-[(1S,2S)-3-(3,5-difluorophenyl)-2-((E)-3-dipropylcarbamoyl-2-methylacryloylamino)-1-hydroxypropyl]-morpholine-4-carboxylic acid tert-butyl ester (0.051 g, 0.075 mmol) in trifluoroacetic acid (1.5 mL) and stir at room temperature for 15 minutes. Dilute with dichloromethane (15 mL), concentrate, dissolve in ethyl acetate (30 mL), wash with 1:1 saturated aqueous sodium chloride:saturated aqueous sodium bicarbonate (30 mL), dry (sodium sulfate) and concentrate. Dissolve the residue in ethyl acetate and add 1 M hydrogen chloride in diethyl ether (0.20 mL, 0.20 mmol) and concentrate to give the title compound (0.045 g, 97.3%).

reactant | (2R,5R)-2-cyclohexylmethoxy-5-[(1S,2S)-3-(3,5-difluorophenyl)-2-((E)-3-dipropylcarbamoyl-2-methylacryloylamino)-1-hydroxypropyl]-morpholine-4-carboxylic acid tert-butyl ester | 0.075 mmol, 0.051 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(\C(=C\C(N(CCC)CCC)=O)\C)=O)O)OCC1CCCCC1 | C36H55F2N3O7
reactant | hydrogen chloride | 1 M | Cl | ClH
reactant | diethyl ether | 0.20 mmol, 0.20 mL | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2R,5R)-2-Cyclohexylmethoxy-5-[(1S,2S)-3-(3,5-difluorophenyl)-2-((E)-3-dipropylcarbamoyl-2-methylacryloylamino)-1-hydroxypropyl]-morpholine-4-carboxylic acid hydrochloride | 0.045 g, 97.3% | Cl.C1(CCCCC1)CO[C@H]1CN([C@H](CO1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(\C(=C\C(N(CCC)CCC)=O)\C)=O)O)C(=O)O | InChI=1S/C32H47F2N3O7.ClH/c1-4-11-36(12-5-2)28(38)13-21(3)31(40)35-26(16-23-14-24(33)17-25(34)15-23)30(39)27-20-44-29(18-37(27)32(41)42)43-19-22-9-7-6-8-10-22;/h13-15,17,22,26-27,29-30,39H,4-12,16,18-20H2,1-3H3,(H,35,40)(H,41,42);1H/b21-13+;/t26-,27+,29+,30-;/m0./s1
